US07902356B2
(R)-2-(4-Chloro-phenyl)-5-[4-(3-hydroxy-pyrrolidin-1-yl)-3-methoxy-phenyl]-6,7-dihydro-5H-thiazolo[5,4-c]pyridin-4-one, hydrochloride salt
Dissolve (R)-2-(4-chloro-phenyl)-5-[3-methoxy-4-(3-triisopropylsilanyloxy-pyrrolidin-1-yl)-phenyl]-6,7-dihydro-5H-thiazolo[5,4-c]pyridin-4-one (370 mg, 0.610 mmol) in dry THF (2 mL). Add TBAF (1.0M in THF, 610 μl, 0.610 mmol) and stir 2 h. Absorb the reaction mixture on silica gel and remove organic solvent via reduce pressure. Purify by silica gel chromatography using 0-100% EtOAc in hexanes to give the title compound. Dissolve the compound in a minimal amount of CH2Cl2 and add HCl/Et2O solution to give precipitated product. Remove the organic solvent via reduced pressure and triturate with MeOH to give the desired product as white solid HCl salt (144 mg, 48%). MS (ES+) 456.0 (M+1)+. 1H NMR (CD3OD): δ 8.01 (d, J=8.8 Hz, 2H), 7.71 (br d, J=8.8 Hz, 1H), 7.51 (d, J=8.4 Hz, 2H), 7.35 (br s, 1H), 7.16 (br d, J=8.8 Hz, 1H), 4.73-4.67 (m, 1H), 4.19 (br t, J=6.6 Hz, 2H), 4.02 (br s, 3H), 3.97-3.85 (m, 3H), 3.66 (br d, J=11.0 Hz, 1H), 3.31 (t, J=7.0 Hz, 2H), 2.49-2.36 (m, 1H), 2.26-2.17 (m, 1H).

reactant | (R)-2-(4-chloro-phenyl)-5-[3-methoxy-4-(3-triisopropylsilanyloxy-pyrrolidin-1-yl)-phenyl]-6,7-dihydro-5H-thiazolo[5,4-c]pyridin-4-one | 0.610 mmol, 370 mg | ClC1=CC=C(C=C1)C=1SC=2C(N(CCC2N1)C1=CC(=C(C=C1)N1C[C@@H](CC1)O[Si](C(C)C)(C(C)C)C(C)C)OC)=O | C32H42ClN3O3SSi
reactant | TBAF | 0.610 mmol, 1.0M, 610 μl | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (R)-2-(4-Chloro-phenyl)-5-[4-(3-hydroxy-pyrrolidin-1-yl)-3-methoxy-phenyl]-6,7-dihydro-5H-thiazolo[5,4-c]pyridin-4-one, hydrochloride salt | Cl.ClC1=CC=C(C=C1)C=1SC=2C(N(CCC2N1)C1=CC(=C(C=C1)N1C[C@@H](CC1)O)OC)=O | InChI=1S/C23H22ClN3O3S.ClH/c1-30-20-12-16(6-7-19(20)26-10-8-17(28)13-26)27-11-9-18-21(23(27)29)31-22(25-18)14-2-4-15(24)5-3-14;/h2-7,12,17,28H,8-11,13H2,1H3;1H/t17-;/m1./s1
